US07696240B2
1-(6,7-Dimethoxy-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 1-chloromethyl-6,7-dimethoxy-naphthalene (Lit. 11) and the product obtained was hydrolyzed to give the title compound as a pale yellow solid. MS: 360.0 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 1-chloromethyl-6,7-dimethoxy-naphthalene | ClCC1=CC=CC2=CC(=C(C=C12)OC)OC | C13H13ClO2
product | 1-(6,7-Dimethoxy-naphthalen-1-ylmethyl)-1H-indole-2-carboxylic acid | COC=1C=C2C=CC=C(C2=CC1OC)CN1C(=CC2=CC=CC=C12)C(=O)O | C22H19NO4
